US04395410
of N,N-dimethyl-3-(4-chlorophenyl)propionamide with diborane provided 16.88 g. of N,N-dimethyl-3-(4-chlorophenyl)propylamine. B.P. 147-148 at 30 torr. A solution of 5.71 g. of the free amine in 150 ml. of diethyl ether was stirred at room temperature while 3.0 g. of n-pentyl bromide was added in one portion. The reaction mixture then was stirred at room temperature for twelve hours, during which time a white precipitate formed. The precipitate was collected by filtration and recrystallized from 125 ml. of methyl ethyl ketone and 10 ml. of methanol to provide N,N-dimethyl-N-n-pentyl-3-(4-chlorophenyl)propylammonium bromide.

reactant | N,N-dimethyl-3-(4-chlorophenyl)propylamine | CN(C)CCCC1=CC=C(C=C1)Cl | C11H16ClN
reactant | n-pentyl bromide | C(CCCC)Br | C5H11Br
solvent | diethyl ether | C(C)OCC | C4H10O
product | N,N-dimethyl-N-n-pentyl-3-(4-chlorophenyl)propylammonium bromide | [Br-].C[N+](CCCCC)(C)CCCC1=CC=C(C=C1)Cl | InChI=1S/C16H27ClN.BrH/c1-4-5-6-13-18(2,3)14-7-8-15-9-11-16(17)12-10-15;/h9-12H,4-8,13-14H2,1-3H3;1H/q+1;/p-1
